US05356558
3-Methyl-1-(4'-butylphenyl)-1-butyne-3-ol (100 g) was dissolved in toluene (900 ml) under nitrogen atmosphere, and then sodium hydride (60% in paraffin liquid; 5.7 g) was added thereto, followed by stirring at 60° C. for 6 hours. The reaction solution was poured into water (500 ml), and then extracted with chloroform, followed by washing with water 3 times. After distilling off toluene and chloroform, the resultant was distilled under reduced pressure (b.p. 62° to 65° C./3 mmHg) to give 4-butylphenylacetylene (63 g).

reactant | 3-Methyl-1-(4'-butylphenyl)-1-butyne-3-ol | 100 g | CC(C#CC1=CC=C(C=C1)CCCC)(C)O | C15H20O
reactant | sodium hydride | 5.7 g | [H-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
product | 4-butylphenylacetylene | 63 g | C(CCC)C1=CC=C(C=C1)C#C | C12H14
